US06668527B2
C. 2-{5-[2-(2,6-Dichloro-benzoylamino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound was prepared from 2-[5-(2-amino-2-ethoxycarbonyl-ethyl)-isoxazol-3-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester hydrocloride and 2,6-dichlorobenzoylchloride in the manner described in example 3B. MS (CI) m/z 525.9 (M+1), 425.9 (M−99).

reactant | 2-[5-(2-amino-2-ethoxycarbonyl-ethyl)-isoxazol-3-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester hydrocloride | Cl.C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CC(C(=O)OCC)N
reactant | 2,6-dichlorobenzoylchloride | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
product | 2-{5-[2-(2,6-Dichloro-benzoylamino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CC(C(=O)OCC)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H29Cl2N3O6
